### PR TITLE
fix: allow simp dischargers to add aux decls to the environment

### LINKED ISSUE #7318: cannot use ax_aux_lemma or native_decide in simp discharger
It seems that simp doesn’t like dischargers that add auxillary lemmas to the environment:
```
inductive P : Prop where
  | mk : P

def Q : Prop := P

theorem Q_of_P : P → Q := fun x => x

-- works
theorem foo : Q := by
  simp (discharger := exact P.mk) [Q_of_P]


/-- error: unknown constant 'Lean.Elab.Tactic.AsAuxLemma.auxLemma✝' -/
#guard_msgs in
theorem bar : Q := by
  simp (discharger := as_aux_lemma => exact P.mk) [Q_of_P]

theorem Q_of_decide : (1 + 1 = 2) → Q := fun _ => P.mk

/-- error: unknown constant 'lean.run.issue7318._auxLemma.3' -/
#guard_msgs in
theorem bar_decide : Q := by
  simp (discharger := native_decide) [Q_of_decide]
```

No immediate super blocking use-case, but fixing this would help with experiments like
https://github.com/leanprover/lean4/pull/5998/files

### PR DESCRIPTION
**Pull request by nomeata**
This PR allows simp dischargers to add aux decls to the environment. This enables tactics like `native_decide` to be used here, and unblocks improvements to omega in #5998.

Fixes #7318

### CODE REVIEW

File: src/Lean/Elab/Tactic/Simp.lean [hunk 1]
```diff
@@ -45,7 +45,8 @@ def tacticToDischarge (tacticCode : Syntax) : TacticM (IO.Ref Term.State × Simp
         /- We must only save messages and info tree changes. Recall that `simp` uses temporary metavariables (`withNewMCtxDepth`).
            So, we must not save references to them at `Term.State`.
         -/
-        withoutModifyingStateWithInfoAndMessages do
+        -- TODO: Is this ok? Used to be  `withoutModifyingStateWithInfoAndMessages`
```
Comment (nomeata) [inline src/Lean/Elab/Tactic/Simp.lean:48]:
```
```
